US07084154B2
A solution of pent-4-ynoic acid (1.0 g, 10 mmol), iodobenzene (2.3 ml, 20 mmol), copper(I) iodide (75 mg, 0.40 mmol) and dichlorobis(triphenylphosphine)-platinum(II) (140 mg, 0.20 mmol) in 20 mL of diethylamine was stirred at rt for 3 days. The volatile material are evaporated by a rotary evaporator and the resulting residue was dissolved in 50 mL dichloromethane and washed with 1 M HCl (50 mL). The dichloromethane layer was dried over sodium sulfate and evaporated to dryness under vacuum. The residue was purified by column chromatography (ethyl acetate/dichloromethane) to afford 5-phenylpent-4-ynoic acid (0.49 g).

reactant | pent-4-ynoic acid | 10 mmol, 1.0 g | C(CCC#C)(=O)O | C5H6O2
reactant | iodobenzene | 20 mmol, 2.3 ml | IC1=CC=CC=C1 | C6H5I
solvent | diethylamine | 20 mL | C(C)NCC | C4H11N
catalyst | copper(I) iodide | 0.40 mmol, 75 mg | [Cu]I
product | 5-phenylpent-4-ynoic acid | 0.49 g | C1(=CC=CC=C1)C#CCCC(=O)O | C11H10O2
